US03991106
Step A: Preparation of 1-(2-Tetrahydropyranyloxy)-4 -hydroxy-5-(4-fluorophenoxy)-2-pentyne
To the Grignard reagent prepared from magnesium (12.2 g., 0.5 mole) and bromoethane (54.5 g., 0.5 mole) in tetrahydrofuran (400 ml.) is added, dropwise, during 30 minutes, a solution of tetrahydro-2-(2-propynyloxy)-2H-pyran (67.3 g., 0.5 mole) in tetrahydrofuran (50 ml.). The mixture is stirred at room temperature for 1 hour and then treated, dropwise, during 1 hour with 4-fluorophenoxyacetaldehyde (61.6 g., 0.4 mole). The resulting mixture is heated at reflux for 1 hour, then cooled and poured into an ice-cold saturated solution of ammonium chloride in water.

reactant | magnesium | 0.5 mole, 12.2 g | [Mg] | Mg
reactant | bromoethane | 0.5 mole, 54.5 g | BrCC | C2H5Br
reactant | tetrahydro-2-(2-propynyloxy)-2H-pyran | 0.5 mole, 67.3 g | C(C#C)OC1OCCCC1 | C8H12O2
reactant | 4-fluorophenoxyacetaldehyde | 0.4 mole, 61.6 g | FC1=CC=C(OCC=O)C=C1 | C8H7FO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(2-Tetrahydropyranyloxy)-4 -hydroxy-5-(4-fluorophenoxy)-2-pentyne | O1C(CCCC1)OCC#CC(COC1=CC=C(C=C1)F)O | C16H19FO4
